US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and phenyl chloroformate, there is obtained ethyl N-phenoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: 293 (100, M-phenolate radical), 265 (16), 167 (76);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | ethyl N-phenoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | O(C1=CC=CC=C1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C24H22N2O3
